US09102671B2
To a solution of (R)-5-(2-(3-carboxy-5-fluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid (I-52) (54 mg, 0.13 mmol) in DMF (2 mL) was added DIEA (116 μL, 0.67 mmol) and HATU (126 mg, 0.33 mmol). The reaction was stirred for 30 minutes, then a solution of NH4Cl (29 mg, 0.52 mmol) in NH4OH (0.25 mL) was added and stirring continued for 2 hours. The crude reaction mixture was diluted with EtOAc and washed with water, brine, dried over magnesium sulfate, filtered and reduced to dryness. Purification by column chromatography on silica gel with DCM/MeOH gradient as eluant gave (R)-5-(2-(3-carbamoyl-5-fluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamide (X-9). 1H NMR (400 MHz, CD3OD) δ 8.24 (d, J=7.6 Hz, 1 H), 8.19 (s, 1 H), 7.65 (s, 1 H), 7.46 (d, J=8.4 Hz, 1 H), 7.22 (d, J=9.2 Hz, 1 H), 7.04 (d, J=2.4 Hz, 1 H), 6.44 (dd, J=2.8, 7.6 Hz, 1 H), 5.25 (dd, J=4.4, 8.8 Hz, 1 H), 4.26 (q, J=11.6 Hz, 1 H), 3.99 (q, J=14.0 Hz, 1 H), 3.20-3.02 (m, 1 H), 2.52-2.40 (m, 1 H). MS m/z 404.1 (M+1)+.

reactant | (R)-5-(2-(3-carboxy-5-fluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.13 mmol, 54 mg | C(=O)(O)C=1C=C(C=C(C1)F)[C@@H]1N(CC(C1)(F)F)C1=CC=2N(C=C1)N=CC2C(=O)O | C19H14F3N3O4
reactant | DIEA | 0.67 mmol, 116 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.33 mmol, 126 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NH4Cl | 0.52 mmol, 29 mg | [NH4+].[Cl-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | NH4OH | 0.25 mL | [NH4+].[OH-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-5-(2-(3-carbamoyl-5-fluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | C(N)(=O)C=1C=C(C=C(C1)F)[C@@H]1N(CC(C1)(F)F)C1=CC=2N(C=C1)N=CC2C(=O)N | C19H16F3N5O2
